US06087293
A slurry of 10.0 g 2-bromo-6-naphthol in 30 mL Me3SiNHSiMe3 was stirred under argon for 2 hours. At this time, the excess silane reagent was removed under reduced pressure. The remaining solids were dissolved in 20 mL pentane and eluted down a 2 inch (5 cm) pad of silica. The solvent was removed under reduced pressure yielding 11.5 g of 2-bromo-6-trimethylsiloxynaphthalene as a white, crystalline solid. 1H NMR (CDCl3): -0.40 (s, 9 H, SiMe3), 6.4-7.3 (m, 6 H, aromatic H) ppm.

reactant | 2-bromo-6-naphthol | 10.0 g | BrC1=CC2=CC=C(C=C2C=C1)O | C10H7BrO
reactant | Me3SiNHSiMe3 | 30 mL | [Si](C)(C)(C)N[Si](C)(C)C | C6H19NSi2
product | 2-bromo-6-trimethylsiloxynaphthalene | 11.5 g | BrC1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C | C13H15BrOSi
